US07635715B2
A solution of 2-(4-chloro-3-fluorophenyl)acetic acid (10.07 g, 53.4 mmol) and concentrated H2SO4 (0.297 mL, 5.34 mmol) in MeOH (200 mL, 4940 mmol) was stirred at 95° C. for 17 hours in a 350 mL sealed vessel. The solution was concentrated in vacuo and then made basic with 1N NaOH(aq) (100 mL). The resulting mixture was extracted with EtOAc (2×100 mL), washed with water (100 mL), and then washed with brine (75 mL). The combined organic layers were dried over MgSO4, concentrated, and dried in vacuo to give methyl 2-(4-chloro-3-fluorophenyl)acetate (10.80 g). MS m/e=203.2 (M+H)+.

reactant | 2-(4-chloro-3-fluorophenyl)acetic acid | 53.4 mmol, 10.07 g | ClC1=C(C=C(C=C1)CC(=O)O)F | C8H6ClFO2
reactant | H2SO4 | 5.34 mmol, 0.297 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 4940 mmol, 200 mL | CO | CH4O
product | methyl 2-(4-chloro-3-fluorophenyl)acetate | 10.80 g | ClC1=C(C=C(C=C1)CC(=O)OC)F | C9H8ClFO2
